US09062023B2
(c) 4-((4-ethylpiperazin-1-yl)methyl)-N-(6-methyl-5-(4-(pyridin-3-yl)pyrimidin-2-ylamino)pyridin-3-yl)benzamide
DIEA (47 μL, 0.27 mmol) was added into a solution of 2-Methyl-N3-(4-pyridin-3-yl-pyrimidin-2-yl)-pyridine-3,5-diamine (15 mg, 0.054 mmol), 4-((4-ethylpiperazin-1-yl)methyl)benzoic acid (16.1 mg, 0.61 mmol), BOP (33.4 mg, 0.76 mmol) in DMF (1.5 mL). The reaction mixture is stirred at rt under argon atmosphere overnight. The reaction mixture was then purified by Waters semi-preparative HPLC to the final product. MS (ESI+) m/z 509.1 [M+H]+.

reactant | DIEA | 0.27 mmol, 47 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-Methyl-N3-(4-pyridin-3-yl-pyrimidin-2-yl)-pyridine-3,5-diamine | 0.054 mmol, 15 mg | CC1=NC=C(C=C1NC1=NC=CC(=N1)C=1C=NC=CC1)N | C15H14N6
reactant | 4-((4-ethylpiperazin-1-yl)methyl)benzoic acid | 0.61 mmol, 16.1 mg | C(C)N1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | C14H20N2O2
reactant | BOP | 0.76 mmol, 33.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-((4-ethylpiperazin-1-yl)methyl)-N-(6-methyl-5-(4-(pyridin-3-yl)pyrimidin-2-ylamino)pyridin-3-yl)benzamide | C(C)N1CCN(CC1)CC1=CC=C(C(=O)NC=2C=NC(=C(C2)NC2=NC=CC(=N2)C=2C=NC=CC2)C)C=C1 | C29H32N8O
